US05013863
A mixture of 1.50 g of ethyl (n-butyl)phosphinate, 1.01 g triethylamine and 2.07 g 3-(N-benzyloxycarbonylamino)propionaldehyde is heated to 100° C. for 4 hours. After this time the mixture is cooled to 20° and the volatile components are removed in high vacuum. Chromatography of the residue on silica gel affords ethyl 3-(N-benzyloxycarbonylamino)-1-hydroxy-propyl(n-butyl)phosphinate as a viscous oil.

reactant | ethyl (n-butyl)phosphinate | 1.50 g | C(CCC)P(OCC)=O | C6H15O2P
reactant | 3-(N-benzyloxycarbonylamino)propionaldehyde | 2.07 g | C(C1=CC=CC=C1)OC(=O)NCCC=O | C11H13NO3
solvent | triethylamine | 1.01 g | C(C)N(CC)CC | C6H15N
product | ethyl 3-(N-benzyloxycarbonylamino)-1-hydroxy-propyl(n-butyl)phosphinate | C(C1=CC=CC=C1)OC(=O)NCCC(O)P(OCC)(=O)CCCC | C17H28NO5P
